US04482718
23.4 ml. of a 25% (w/w) solution of n-butyllithium in hexane (0.088 mol) are added, with stirring, at -78° C. and under nitrogen, to the imine prepared above (0.088 mol), dissolved in 100 ml. of anhydrous tetrahydrofuran. 11.1 g. (0.088 mol) 2-acetylthiophene in 20 ml. of tetrahydrofuran are added to the dark red solution at -78° C. The reaction mixture is stirred for 2 hours at -30° C. and then for 12 hours at ambient temperature, poured into a saturated aqueous solution of ammonium chloride and finally extracted 3 times with 100 ml. of methylene chloride. The combined organic phases are washed with water, dried over anhydrous sodium sulphate and evaporated to give an oily residue which solidifies upon trituration in diisopropyl ether to give 14.6 g. (yield: 63) 1-(2-chlorophenyl)-4-(thien-2-yl)-4-methyl-2-azabuta-1,3-diene in the form of yellow crystals giving a single spot in TLC; m.p. 102° C.

reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 0.088 mol | CCCCCC | C6H14
reactant | 2-acetylthiophene | 0.088 mol | C(C)(=O)C=1SC=CC1 | C6H6OS
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-(2-chlorophenyl)-4-(thien-2-yl)-4-methyl-2-azabuta-1,3-diene | ClC1=C(C=CC=C1)C=NC=C(C)C=1SC=CC1 | C14H12ClNS
